### PR TITLE
Added statements, proved by sorry, following the blueprint formalizing the regularity of cographic matroids.

### PR DESCRIPTION
**Pull request by cappucher**
There may be some redundancies, because I defined some linear algebra tools to help with the proof (dot product with finite sum (E -> F), row space, orthogonal complement, and standard block matrices and standard dual block matrices). I also added a little helper to "glue" together two functions (one defined on X, the other defined on Y).

### CODE REVIEW

File: Seymour/Matroid/Graphicness.lean [hunk 1]
```diff
@@ -175,3 +175,115 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+    simp [dot]
+  add_mem' := by
+    intro v w hv hw u hu
+    sorry
+  smul_mem' := by
+    intro a v hv u hu
+    sorry }
+
+/-- Standard block matrix `A = [1_X | B]` with columns indexed by `Sum X Y`. -/
+def stdMat [DecidableEq X] (B : Matrix X Y 𝔽) : Matrix X (Sum X Y) 𝔽 :=
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]: `1 ◫ B`

File: Seymour/Matroid/Graphicness.lean [hunk 2]
```diff
@@ -175,3 +175,115 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+  fun x e =>
+    match e with
+    | Sum.inl x' => if x = x' then 1 else 0
+    | Sum.inr y  => B x y
+
+/-- The "dual" block matrix `B* = -Bᵀ` over an arbitrary field. -/
+def dualBlock (B : Matrix X Y 𝔽) : Matrix Y X 𝔽 :=
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]: Such a small thing is better to inline than to have as a definition that you would have to unfold all the time.

File: Seymour/Matroid/Graphicness.lean [hunk 3]
```diff
@@ -175,3 +175,115 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+
+/-- Dot product on `E → 𝔽` using a finite sum. -/
+def dot [Fintype E] (v w : E → 𝔽) : 𝔽 :=
+  ∑ e, v e * w e
+
+def rowSpace {ι E 𝕂 : Type*} [Field 𝕂] (A : Matrix ι E 𝕂) : Submodule 𝕂 (E → 𝕂) :=
+  Submodule.span 𝕂 (Set.range (fun i => A i))
+
+/-- Orthogonal complement (with respect to `dot`) of a submodule of `E → 𝔽`. -/
+def orth [Fintype E] (U : Submodule 𝔽 (E → 𝔽)) : Submodule 𝔽 (E → 𝔽) :=
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]: It might already exist with some API in Mathlib or in Peter Nelson's repository.

**Review by madvorak — COMMENTED** [review]
You define many things that have already been defined. It is counterproductive because lemmas applicable to one formalization then aren't applicable for the other formalization (and vice versa).

Please express your lemmas in terms of existing definitions. In places where it isn't possible, consider adding `private def` for things that will be used only in proofs.

File: Seymour/Matroid/Graphicness.lean [hunk 4]
```diff
@@ -175,3 +175,115 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+open scoped BigOperators Matrix
+
+variable {X Y E ι₁ ι₂ 𝔽 : Type*}
+variable [Field 𝔽]
+
+/-- Dot product on `E → 𝔽` using a finite sum. -/
+def dot [Fintype E] (v w : E → 𝔽) : 𝔽 :=
+  ∑ e, v e * w e
+
+def rowSpace {ι E 𝕂 : Type*} [Field 𝕂] (A : Matrix ι E 𝕂) : Submodule 𝕂 (E → 𝕂) :=
```
[the remark this answers is not in the document]
Comment (cappucher) [reply Seymour/Matroid/Graphicness.lean]: I couldn't find anything in mathlib, so I just rewrote it as a private definition; it's also a single line definition. If you can find anything I'd replace it. Also, it looks like Peter Nelson's repository is just for matroid stuff, which seems to be unrelated to the linear algebra I'm using here.

**Review by cappucher — COMMENTED** [review]
I trimmed down a bunch of the extraneous code (the only definitions still there are rowSpace and the orthogonal complement of a submodule with any fields E -> F), but let me know if there's anything else I can replace before I start writing proofs for each statement.

File: Seymour/Matroid/Graphicness.lean [hunk 5]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+
+/-- Orthogonal complement (with respect to `dot`) of a submodule of `E → 𝔽`. -/
+private def orth [Fintype E] (U : Submodule 𝔽 (E → 𝔽)) : Submodule 𝔽 (E → 𝔽) :=
+{ carrier := { v | ∀ u, u ∈ U → dotProduct v u = 0 }
+  zero_mem' := by
+    intro u hu
+    simp [dotProduct]
+  add_mem' := by
+    intro v w hv hw u hu
+    sorry
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
    rw [add_dotProduct, hv, hw, add_zero]
    · exact hu
    · exact hu
```

File: Seymour/Matroid/Graphicness.lean [hunk 6]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+  smul_mem' := by
+    intro a v hv u hu
+    sorry }
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
    rw [smul_dotProduct, hv _ hu, smul_zero] }
```

File: Seymour/Matroid/Graphicness.lean [hunk 7]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+
+variable {α X Y E ι₁ ι₂ : Type*} [Field 𝔽]
+[Fintype X] [Fintype Y]
+[DecidableEq X] [DecidableEq Y] [DecidableEq α]
+
+/- We specialize to `ZMod 2` for the early lemmas. -/
+variable (B : Matrix X Y (ZMod 2))
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
variable (B : Matrix X Y Z2)
```

File: Seymour/Matroid/Graphicness.lean [hunk 8]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+
+/-- Lemma 0.1 (Row space of a standard representation). -/
+private lemma rowSpace_stdMat
+  [Fintype (Sum X Y)] :
+  rowSpace (1 ◫ B)
+    =
+  Submodule.span (ZMod 2)
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
  Submodule.span Z2
```

File: Seymour/Matroid/Graphicness.lean [hunk 9]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+    (Set.range (fun u => Sum.elim u (Matrix.vecMul u B))) :=
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
    (fun b => Sum.elim (b ᵥ* Bᵀ) b).range :=
```

File: Seymour/Matroid/Graphicness.lean [hunk 10]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+  sorry
+
+/-- Lemma 0.4 (Dual vector matroid via orthogonal complement). -/
+private lemma matrix_toMatroid_dual_of_rowSpace_eq_orth
+  {X Y : Set α}
+  [Fintype X] [Fintype Y]
+  (A  : Matrix X Y 𝔽)
+  (A' : Matrix X Y 𝔽)
+  (h  : rowSpace A' = orth (rowSpace A)) :
+  Matrix.toMatroid A' = (Matrix.toMatroid A)✶ :=
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
  A'.toMatroid  = A.toMatroid✶ :=
```

File: Seymour/Matroid/Graphicness.lean [hunk 11]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+    intro u hu
+    simp [dotProduct]
+  add_mem' := by
+    intro v w hv hw u hu
+    sorry
+  smul_mem' := by
+    intro a v hv u hu
+    sorry }
+
+variable {α X Y E ι₁ ι₂ : Type*} [Field 𝔽]
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]: Please don't declare the same variable multiple times.

File: Seymour/Matroid/Graphicness.lean (hunk 9 above)
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
    (fun u => Sum.elim u (u ᵥ* B)).range :=
```

File: Seymour/Matroid/Graphicness.lean [hunk 12]
```diff
@@ -175,3 +175,85 @@ theorem Matroid.IsGraphic.isRegular {M : Matroid α} (hM : M.IsGraphic) :
...
+    (fun u => Sum.elim u (u ᵥ* B)).range :=
+by
+  sorry
+
+/-- Lemma 0.2 (Orthogonal complement of a standard row space). -/
+private lemma rth_rowSpace_stdMat
+  [Fintype (Sum X Y)] :
+  orth (rowSpace (1 ◫ B))
+    =
+  Submodule.span (Z2)
```
Comment (madvorak) [inline Seymour/Matroid/Graphicness.lean]:
```suggestion
  Submodule.span Z2
```
